US05824691
To a solution of methyl 3-hydroxymethyl-5-(pyrrol-1-yl)benzoate (2.0 g) in chloroform (30 ml) was added silver(I) oxide (8.0 g) and iodomethane (4.3 ml). The reaction mixture was stirred at 50° C. for 4.5 hours. After being cooled to room temperature, the slurry was filtered and the filtrate was evaporated in vacuo. The residue was purified by column chromatography on silica gel eluting with a mixture of hexane and ethyl acetate (10:1). The eluted fractions containing the desired product were collected and evaporated in vacuo to afford methyl 3-methoxymethyl-5-(pyrrol-1-yl)benzoate (1.72 g)) as an oil.

reactant | methyl 3-hydroxymethyl-5-(pyrrol-1-yl)benzoate | 2.0 g | OCC=1C=C(C(=O)OC)C=C(C1)N1C=CC=C1 | C13H13NO3
reactant | iodomethane | 4.3 ml | IC | CH3I
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | silver(I) oxide | 8.0 g | [Ag-]=O
product | methyl 3-methoxymethyl-5-(pyrrol-1-yl)benzoate | 1.72 g | COCC=1C=C(C(=O)OC)C=C(C1)N1C=CC=C1 | C14H15NO3
